US05034381
To a suspension of sodium hydride (50% in mineral oil, 1.15 g, washed with hexane) in toluene (50 ml) is added a solution of diethyl cyanomethylphosphonate (4.25 g) in toluene (50 ml) dropwise under nitrogen and the mixture is stirred 30 minutes longer. A solution of 1,4-cyclohexanedione monoethylene ketal (3.12 g) in toluene (50 ml) is added dropwise under nitrogen at room temperature. After 10 minutes, ice water is added under vigorous stirring. The aqueous layer is collected and extracted several times with ether. The combined toluene-ether extracts are washed with water, then brine, dried over sodium sulphate and concentrated to dryness at reduced pressure. The residual oil is chromatographed through a 25×140 mm column of silica gel, using methylene chloride as solvent to afford an oil which gradually crystallizes to give 8-cyanomethylene-1,4-dioxaspiro[4.5]decane.

reactant | sodium hydride | 1.15 g | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 4.25 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 1,4-cyclohexanedione monoethylene ketal | 3.12 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 8-cyanomethylene-1,4-dioxaspiro[4.5]decane | C(#N)C=C1CCC2(OCCO2)CC1 | C10H13NO2
